US07557103B2
A. 3-Bromo-2-methyl-benzofuran-7-carboxylic Acid Methyl Ester
A solution of 2-methyl-benzofuran-7-carboxylic acid methyl ester (0.55 g, 2.87 mmol), prepared according to a literature procedure (Ishikawa, T.; Nagai, K.; Ohkubo, N.; Ishii, H. Heterocycles 1994, 39, 371), in CH2Cl2 (15 mL) at 0° C. is treated with bromine (147 μL, 2.87 mmol). The reaction is stirred at 0° C. for 30 min, then at RT overnight. The reaction is diluted with EtOAc 960 mL); washed with 5% Na2S2O3 (2×20 mL); brine (20 mL); dried with Na2SO4, filtered and concentrated gives the title compound (0.79 g, 2.87 mmol, 100%). 1H NMR (CDCl3): δ 2.55 (s, 3H), 4.00 (s, 3H), 7.33 (t, J=7.5 Hz, 1H), 7.63 (dd, J=7.9, 0.9 Hz, 1H), 7.93 (dd, J=7.9, 0.9 Hz, 1H) ppm.

reactant | 2-methyl-benzofuran-7-carboxylic acid methyl ester | 2.87 mmol, 0.55 g | COC(=O)C1=CC=CC=2C=C(OC21)C | C11H10O3
reactant | bromine | 2.87 mmol, 147 μL | BrBr | Br2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 960 mL | CCOC(=O)C | C4H8O2
product | 3-Bromo-2-methyl-benzofuran-7-carboxylic Acid Methyl Ester | 2.87 mmol, 0.79 g, 100% | COC(=O)C1=CC=CC=2C(=C(OC21)C)Br | C11H9BrO3
